US08664401B2
Step C) Ethyl (2R)-4-(3-fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate
Pd EnCat™ (172 mg, 0.067 mmol) was added to a mixture of potassium carbonate (298 mg, 2.16 mmol), phenylboronic acid (132 mg, 1.08 mmol), and ethyl (2R)-4-(3-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (288 mg, 0.647 mmol) in 1,4-dioxane:water (10 ml, 4:1) in a 20 ml vial. The vial was sealed and the reaction was heated to 80° C. and allowed to stir overnight at that temperature. The reaction was allowed to cool to RT, filtered and the catalyst was washed with methanol (20 mL) and dichloromethane (20 mL). The combined filtrates were concentrated and the crude product was purified via flash chromatography using an Analogix SF15-12 g column and an eluant of ethyl acetate in heptane (60-100%) to afford the title compound as a white solid (131 mg, 51.2%). LC-MS m/z 396.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (t, J=7.12 Hz, 3H) 1.79 (s, 3H) 2.46-2.67 (m, 2H) 3.14 (s, 3H) 3.99-4.16 (m, 1H) 4.22-4.44 (m, 3H) 6.24-6.39 (m, 1H) 7.10-7.22 (m, 1H) 7.38-7.55 (m, 3H) 7.54-7.63 (m, 2H).

reactant | potassium carbonate | 2.16 mmol, 298 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 1.08 mmol, 132 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl (2R)-4-(3-fluoro-4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 0.647 mmol, 288 mg | FC=1C(N(C=CC1I)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O | C13H17FINO5S
reactant | water | 10 ml | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
product | Ethyl (2R)-4-(3-fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 131 mg, 51.2% | FC=1C(N(C=CC1C1=CC=CC=C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O | C19H22FNO5S
